US06255251B1
To a solution of 12.5 g (28.4 mmol) 2-(bis-methylsulfanylmethylene)-1 -cyclopropyl-3-(2-methanesulfonyl-4-trifluoromethylphenyl)propane-1,3-dione in 80 ml dichloromethane, 140 ml each of ethanol, 2.82 g (39.8 mmol) hydroxylamine hydrochloride and 3.4 g (41.2 mmol) anhydrous sodium acetate is successively added. The reaction mixture is then agitated for 48 hours at a temperature of 20° C. Then 50 ml dichloromethane, 50 ml ethanol, 1.4 g hydroxylamine hydrochloride and 1.7 g anhydrous sodium acetate are added, and the mixture is agitated for a further 3 days at 20° C. The reaction mixture is subsequently heated to a temperature of 30° C., and 2.8 g hydroxylamine hydrochloride and 3.4 g sodium acetate are added. After 18 hours' agitation at a temperature of 30° C., the solvents are distilled off and the residue taken up in 300 ml ethyl acetate. The organic phase is washed twice with water and once with concentrated aqueous sodium chloride solution. After the organic phase has been dried over sodium sulfate, it is treated with activated charcoal, filtered and evaporated to dryness. After recrystallization from a little diisopropylether, 10.7 g 5-cyclopropyl-3-methylsulfanyl-4-(2-methanesulfonyl-4-trifluoromethylbenzoyl)isoxazole is obtained in the form of crystalline solid matter with a melting point of 145-146° C.

reactant | 2-(bis-methylsulfanylmethylene)-1 -cyclopropyl-3-(2-methanesulfonyl-4-trifluoromethylphenyl)propane-1,3-dione | 28.4 mmol, 12.5 g | CSC(=C(C(=O)C1CC1)C(=O)C1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)C)SC | C17H17F3O4S3
reactant | hydroxylamine hydrochloride | 39.8 mmol, 2.82 g | Cl.NO
reactant | sodium acetate | 41.2 mmol, 3.4 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 1.4 g | Cl.NO
reactant | sodium acetate | 1.7 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 2.8 g | Cl.NO
reactant | sodium acetate | 3.4 g | C(C)(=O)[O-].[Na+]
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | ethanol | 140 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 5-cyclopropyl-3-methylsulfanyl-4-(2-methanesulfonyl-4-trifluoromethylbenzoyl)isoxazole | 10.7 g | C1(CC1)C1=C(C(=NO1)SC)C(C1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)C)=O | C16H14F3NO4S2
